US04055595
A solution of (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionic acid (6.0 g.), thionyl chloride (7.5 ml.) and dimethylformamide (0.2 g.) in benzene (50 ml.) is heated under reflux for 10 minutes. The mixture is evaporated, benzene (20 ml.) is added and the evaporation repeated twice. Light petroleum (b.p. 40°-60° C., 150 ml.) and carton are added to the residue, and the solution is filtered and evaporated to give (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionyl chloride (5.35 g.) m.p. 39°-43° C.

reactant | (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionic acid | 6.0 g | C1=C(C=CC2=CC=CC=C12)COC(C(=O)O)(C(F)(F)F)C | C15H13F3O3
reactant | thionyl chloride | 7.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.2 g | CN(C=O)C | C3H7NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | (±)-2-(2-naphthylmethoxy)-3,3,3-trifluoro-2-methylpropionyl chloride | 5.35 g | C1=C(C=CC2=CC=CC=C12)COC(C(=O)Cl)(C(F)(F)F)C | C15H12ClF3O2
